US08487108B2
To a solution of (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate (4 g, 9.7 mmol) in MeOH (80 mL) was added NaBH4 (2.9 g, 77.4 mmol) in portions while the temperature was lower than 40° C. After addition, the mixture was stirred at rt for 2-3 hrs. The solvent was removed in vacuo to give a residue, which was partitioned between water and ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4 and evaporated to give (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate (3.5 g, 97%). 1H NMR (CDCl3, 400 MHz) δ 7.12 (m, 3H), 4.52 (q, 1H), 4.11 (m, 1H), 3.69 (m, 3H), 3.41 (m, 3H), 2.65 (m, 1H), 2.02 (m, 1H), 1.65 (m, 1H), 1.42 (d, 9H).

reactant | (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-ethoxy-2-oxoethoxy)methyl)piperidine-1-carboxylate | 9.7 mmol, 4 g | FC1=C(C=CC=C1F)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)OCC | C21H29F2NO5
reactant | NaBH4 | 77.4 mmol, 2.9 g | [BH4-].[Na+]
solvent | MeOH | 80 mL | CO | CH4O
product | (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate | 3.5 g, 97% | FC1=C(C=CC=C1F)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCO | C19H27F2NO4
